US04533666
6-(4-Trifluoromethylphenyl)-2,3-bis(4-methoxyphenyl)pyridine
A mixture of 22.4 g. of bis(trifluoromethyl)mercury, 16.77 g. of copper powder and 284 ml. of N-methyl-2-pyrrolidinone was heated at 140° C. for three hours. A solution of 10.88 g. of 6-(4-iodophenyl)-2,3-bis(4-methoxyphenyl)pyridine in 140 ml. of N-methyl-2-pyrrolidinone was added over a 30 minute period. The reaction was heated at 150° C. for three hours and then allowed to stir overnight at room temperature. Two liters of diethyl ether were added and the mixture was filtered. To the filtrate were added 250 ml. of water and the layers were separated. The organic layer was washed four times with water, dried over sodium sulfate, filtered, and evaporated in vacuo. The residue was crystallized from diethyl ether affording 7.48 g. of the desired title product, m.p. about 144°-147° C.

reactant | bis(trifluoromethyl)mercury | FC(F)(F)[Hg]C(F)(F)F
reactant | N-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | 6-(4-iodophenyl)-2,3-bis(4-methoxyphenyl)pyridine | IC1=CC=C(C=C1)C1=CC=C(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C25H20INO2
catalyst | copper | [Cu] | Cu
solvent | diethyl ether | Two liters | C(C)OCC | C4H10O
product | 6-(4-Trifluoromethylphenyl)-2,3-bis(4-methoxyphenyl)pyridine | FC(C1=CC=C(C=C1)C1=CC=C(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)(F)F | C26H20F3NO2
